Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ceftriaxone
 
Attending: ___.
 
Chief Complaint:
Ongoing diarrhea
 
Major Surgical or Invasive Procedure:
colonoscopy ___

 
History of Present Illness:
___ h/o AF, hypertension, asthma, and colitis diagnosed ___ years 
ago by colonoscopy (not on treatment aside from ___ 
imodium), history of antibiotic-associated C. diff in ___, and 
recently re-diagnosed with C. difficile colitis in early ___, now presenting with diarrhea. Patient hospitalized at ___ 
___ ___, diagnosed with UTI and enteritis, 
discharged on ___ for UTI, uncertain cause of enteritis. 
Symptoms persisted and he re-presented to ___ ___. 
Stool positive for C. diff, started on PO vancomycin and sent 
home from the ED on oral medication but symptoms persisted, so 
his GI physician replaced vancomycin with fidaxomicin, which he 
has been taking for the last 5 days. His stool frequency had 
improved significantly, but on the night prior to admission he 
had 4 episodes of diarrhea, prompting him to present to the 
___ ED. Has mild diffuse abdominal pain. No melena or 
hematochezia. Denies chest pain shortness of breath nausea or 
vomiting. In the ED, vitals and labs unremarkable aside from 
mild ALT elevation. CT abdomen with "long continuous segment of 
terminal ileum that demonstrates wall thickening with a straight 
appearance suggesting intramural fat and without acute 
inflammation. Findings are consistent with chronic inflammation, 
differentials would include inflammatory and ischemic 
etiologies. Chronic infection is considered less likely. No 
evidence of colitis."

Started on PO Vanco IV Flagyl and admitted for further 
workup/treatment.

ROS is positive as above, plus notes some mild lower extremity 
edema that his cardiologist worked up with echo which was 
normal. Has also had a 15 pound weight loss over the last month 
while he's been feeling ill with poor appetite. Finally, he has 
had epigastric abdominal pain that is bandlike and radiates to 
the back, for which he had a CT 6 months ago that was 
unremarkable, per his report. No jaundice and full review of 
systems otherwise negative except for above.
 
Past Medical History:
-A Fib, HTN
-Asthma
-Nephrolithiasis
-Colitis: Diagnosed with colitis by colonoscopy ___ years ago but 
only has diarrhea ___ for which he takes Imodium. Sounds 
like possibly microscopic colitis as he reports his GI doctor 
said his mucosa was normal "pink" appearing. His last 
colonoscopy was ___ and reportedly was normal. 
-Esophageal stricture: Has had EGD with dilatation. Another same 
procedure is planed for near future. 
-Antibiotic-induced C. Diff colitis in ___

-Cholecystectomy
-TURP
-Inguinal hernia repair
 
Social History:
___
Family History:
No family history of colon cancer. Parents died of "old age."
 
Physical Exam:
-Vitals: reviewed, afebrile
-General: NAD, laying comfortably in bed 
-HEENT: atraumatic, normocephalic, moist mucus membranes, PERRL, 
EOMi
-Cardiovascular: RRR, no murmur 
-Pulmonary: clear b/l, no wheeze 
-GI: Soft, nontender, nondistended, bowel sounds present
-GU: no foley, no CVA/suprapubic tenderness 
-MSK: No pedal edema, no joint swelling 
-Skin: No rashes, ulcerations, or jaundice
-Neuro: no focal neurological deficits, CN ___ grossly intact 
-Psychiatric: appropriate mood and affect 
 
Pertinent Results:
ADMISSION LABS
___ 04:50AM BLOOD WBC-8.3 RBC-5.28 Hgb-15.6 Hct-47.2 MCV-89 
MCH-29.5 MCHC-33.1 RDW-13.1 RDWSD-42.8 Plt ___
___ 04:50AM BLOOD Glucose-90 UreaN-9 Creat-0.9 Na-141 K-4.3 
Cl-104 HCO3-24 AnGap-13
___ 04:50AM BLOOD ALT-66* AST-39 AlkPhos-70 TotBili-0.6
___ 04:50AM BLOOD Lipase-22
___ 04:50AM BLOOD Albumin-3.9
___ 04:50AM BLOOD Digoxin-0.6
___ 05:08AM BLOOD Lactate-1.7

DISCHARGE LABS
___ 06:29AM BLOOD WBC-6.1 RBC-4.54* Hgb-13.6* Hct-41.0 
MCV-90 MCH-30.0 MCHC-33.2 RDW-13.0 RDWSD-43.1 Plt ___
___ 06:29AM BLOOD Glucose-81 UreaN-8 Creat-0.9 Na-144 K-4.2 
Cl-106 HCO3-27 AnGap-11

IMAGING/STUDIES
-CT A/P with IV contrast (no PO): 1. Long continuous segment of 
terminal ileum demonstrates wall thickening with a straight 
appearance suggesting intramural fat and without acute 
inflammation.  Findings are consistent with chronic 
inflammation,  differentials would include inflammatory and 
ischemic etiologies.  Chronic infection is considered less 
likely. 2. No evidence of colitis. 

-Colonoscopy: Diverticulosis of the sigmoid colon. Normal mucosa 
in the colon (biopsy). The terminal ileum was evaluated for 
about 40 cm. Abnormal mucosa with erythema was noted between 
20-40cm into the terminal ileum. (biopsy). Otherwise normal 
colonoscopy to terminal ileum
 
Brief Hospital Course:
___ h/o A fib, HTN, and colitis of uncertain etiology with 
recently diagnosed C. difficile 2 weeks ago (with ongoing
symptoms despite PO vancomycin then switched to fidaxomicin with 
initial improvement) who presented with worsening diarrhea.

1. Diarrhea and terminal ileitis h/o C diff and colitis unknown 
etiology
-Patient initially diagnosed with C diff ___ following 
antibiotics for UTI discharged on PO vancomycin that was changed 
to fidoxamicin ___ due to persistent diarrhea and then 
presented ___ with continued diarrhea.  Very unusual not to 
respond to appropriate C diff treatment. Also would expect C 
diff to cause colitis and not terminal ileitis. CRP 5.  
Appreciate GI recommendations with suspicion noninfectious cause 
of colitis s/p colonoscopy ___.  They will follow up biopsy 
results with him ?Crohn's disease and discuss treatment.  Okay 
to stop C diff antibiotics given full 2 week treatment followed 
by negative test.  Hold ranitidine given increased risk of C 
diff.   Continue cholestyramine for diarrhea, which can be 
increased to 8mg BID.  He can also use immodium for diarrhea.  

2. Weight loss
-15 pound weight loss this month in setting of initial N/V, 
diarrhea, and poor appetite most likely related to GI process. 
If this persists after diarrheal process is reversed, PCP ___ 
need to consider further workup. 

3. Orthostatic hypotension
-Drop in diastolic blood pressure by 10 with standing.  Concern 
for iatrogenic-induced hypotension and dizziness with 
colonoscopy prep (volume depletion) despite being on IV fluids. 
Give bolus of NS and increase IV fluid rate. 

4. A fib RVR
-Well-controlled A fib with RVR during colonoscopy likely due to 
procedure and volume depletion.  Give IV fluids and continue 
digoxin (level ok), propafenone, and aspirin 325mg.   Defer to 
PCP/cardiology why he is not on anticoagulation. 

Chronic Medical Problems
1. Back pain, chronic: evaluated by CT 6 months ago and stable. 
Lipase is normal and CT with IV contrast demonstrates no 
pancreatic lesions.
2. HTN: continue lisinopril
3. Asthma: Continue Advair 500/50 BID.
4. Esophageal stricture/GERD: s/p dilations in the past due for 
another. He is supposed to be on ranitidine (though doesn't have 
GERD symptoms and may be due to h/o esophagitis), but will hold 
this in the setting of C. diff.

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Propafenone HCl 150 mg PO TID 
4. Digoxin 0.125 mg PO DAILY 
5. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
6. Vitamin D ___ UNIT PO 1X/WEEK (___) 
7. Ranitidine Dose is Unknown  PO BID 
8. Cholestyramine 4 gm PO BID 

 
Discharge Medications:
1.  LOPERamide 2 mg PO QID:PRN diarrhea  
can take up to 4 times/day w/ diarrhea - goal 1 bowel movement 
per day  
RX *loperamide 2 mg 1 tab by mouth up to 4 times per day as 
needed Disp #*60 Capsule Refills:*0 
2.  Cholestyramine 8 gm PO BID 
okay to increase to 8mg twice per day if diarrhea continues  
RX *cholestyramine (with sugar) 4 gram 2 powder(s) by mouth 
twice a day Refills:*0 
3.  Aspirin 325 mg PO DAILY  
4.  Digoxin 0.125 mg PO DAILY  
5.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
6.  Lisinopril 5 mg PO DAILY  
7.  Propafenone HCl 150 mg PO TID  
8.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colitis
Diarrhea 
A fib
Orthostatic hypotension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted with diarrhea being treated for C diff.  You 
were evaluated by the Gastroenterologist team who felt that your 
diarrhea was not due to C diff.  You had a colonoscopy ___ and 
will follow up the results with them.  In the meantime you can 
use cholestyramine and immodium to control your diarrhea.  If 
you continue to have diarrhea ensure you are well-hydrated. 

It was a pleasure taking care of you. 
-Your ___ team

It was a pleasure taking care of you.
-Your ___ team 
 
Followup Instructions:
___